US07553846B2
A mixture of methyl 2-tert-butylbenzoxazole-7-carboxylate (0.41 g, 1.77 mmol), lithium hydroxide monohydrate (222 mg, 5.30 mmol) and tetrahydrofuran/water (5:1, 6 mL) was stirred at room temperature for 17 h. The reaction mixture was cooled to 0° C., adjusted to pH 2 using 1 N HCl, and then extracted with dichloromethane (2×200 mL). The combined organic phase was washed with brine (2×50 mL), dried (Na2SO4), filtered and concentrated to afford the desired 2-tert-butylbenzoxazole-7-carboxylic acid (336 mg, 86%) as a pink solid: 1H NMR (300 MHz, DMSO-d6) δ 13.20 (br s, 1H), 7.95 (d, J=7.8 Hz, 1H), 7.84 (d, J=7.8 Hz, 1H), 7.45 (t, J=7.8 Hz, 1H), 1.45 (s, 9H); MS (ESI+) m/z 220 (M+H).

reactant | methyl 2-tert-butylbenzoxazole-7-carboxylate | 1.77 mmol, 0.41 g | C(C)(C)(C)C=1OC2=C(N1)C=CC=C2C(=O)OC | C13H15NO3
reactant | lithium hydroxide monohydrate | 5.30 mmol, 222 mg | O.[OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran water | 6 mL | O1CCCC1.O
product | 2-tert-butylbenzoxazole-7-carboxylic acid | 336 mg, 86% | C(C)(C)(C)C=1OC2=C(N1)C=CC=C2C(=O)O | C12H13NO3
